US07667049B2
Synthesis of benzyl (3R,4S)-3-(N-cyclopropyl)carbamoyl-4-hydroxypyrrolidine-1-carboxylate
17.9 g of 1-hydroxybenzotriazole hydrate (117 mmol), 16.9 mL of cyclopropylamine (244 mmol) and 22.4 g of 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride (117 mmol) were successively added to a solution of (3R,4S)-1-benzyloxycarbonyl-4-hydroxypyrrolidine-3-carboxylic acid (25.9 g, 97.5 mmol) in 259 mL of dehydrated tetrahydrofuran under stirring at room temperature. The mixture was further stirred at room temperature for 5 hours. Subsequently, the reaction mixture was concentrated under reduced pressure, followed by addition of 130 mL of ethyl acetate and 260 mL of 1 mol/L hydrochloric acid and subsequent stirring for 30 minutes. The resulting crystals were collected by filtration and washed with 26 mL of ethyl acetate. The organic layer was collected and washed with 130 mL of a 10% aqueous sodium bicarbonate solution and 130 mL of 28% brine. To this layer, 39.0 g of anhydrous sodium sulfate was added and the mixture was stirred for 1 hour. The insoluble material was separated by filtration and washed with 52 mL of ethyl acetate. The filtrate was concentrated under reduced pressure. To the resulting residue, 156 mL of diisopropyl ether was added and the product was tritulated. The precipitated powder was collected by filtration and washed with 39 mL of diisopropyl ether. The washed product was dried by air-blowing at room temperature for 30 minutes. 25.6 g of the resulting crystals were added to 308 mL of ethyl acetate. The mixture was heated at an external temperature of 80° C. for 25 minutes under stirring, then allowed to cool in the air for 40 minutes under stirring, then cooled in a water bath for 5 minutes under stirring at an internal temperature of 40° C., and then stirred at room temperature for 5 minutes at an internal temperature of 25° C. The precipitated powder was collected by filtration and washed with 52 mL of diisopropyl ether. The washed product was dried for 1 hour by air-blowing. Further drying the product by air-blowing at 60° C. for 16 hours gave 14.5 g of the title compound as fluffy colorless crystals (43% yield in the 3 steps).

reactant | 1-hydroxybenzotriazole hydrate | 117 mmol, 17.9 g | O.ON1N=NC2=C1C=CC=C2
reactant | cyclopropylamine | 244 mmol, 16.9 mL | C1(CC1)N | C3H7N
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride | 117 mmol, 22.4 g | Cl.C(C)N=C=NCCCN(C)C
reactant | (3R,4S)-1-benzyloxycarbonyl-4-hydroxypyrrolidine-3-carboxylic acid | 97.5 mmol, 25.9 g | C(C1=CC=CC=C1)OC(=O)N1C[C@H]([C@@H](C1)O)C(=O)O | C13H15NO5
solvent | tetrahydrofuran | 259 mL | O1CCCC1 | C4H8O
product | benzyl (3R,4S)-3-(N-cyclopropyl)carbamoyl-4-hydroxypyrrolidine-1-carboxylate | 14.5 g, 43% yield | C1(CC1)NC(=O)[C@@H]1CN(C[C@H]1O)C(=O)OCC1=CC=CC=C1 | C16H20N2O4
